US07678834B2
A solution of 3.50 g 8-(allylmethylamino)-1,4-dioxaspiro[4.5]decane-8-carbonitrile in 35 ml analytical grade tetrahydrofuran was added dropwise to 14.8 ml 2.0 molar benzylmagnesium chloride solution in THF under a nitrogen atmosphere and the mixture was stirred overnight at room temperature. For working up, 25 ml saturated ammonium chloride solution were added, while cooling with ice, the phases were separated, the aqueous phase was extracted three times with 25 ml diethyl ether each time, the combined organic phases were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. The crude allyl-(8-benzyl-1,4-dioxaspiro[4.5]dec-8-yl)methylamine obtained (5.41 g) was stirred, without further purification, with a mixture of 13 ml conc. hydrochloric acid (32 per cent by weight) and 7.5 ml water for 24 hours at room temperature. The reaction mixture was then first washed three times with 50 ml diethyl ether each time and then rendered alkaline by addition of sodium hydroxide solution (32 per cent by weight), while cooling with ice, and extracted three times with 100 ml methylene chloride each time, the combined methylene chloride extracts were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. 3.55 g 4-(allylmethylamino)-4-benzylcyclohexanone were obtained.

reactant | 8-(allylmethylamino)-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 3.50 g | C(C=C)CNC1(CCC2(OCCO2)CC1)C#N | C13H20N2O2
reactant | benzylmagnesium chloride | 2.0 molar, 14.8 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
reactant | THF | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | allyl-(8-benzyl-1,4-dioxaspiro[4.5]dec-8-yl)methylamine | C(C=C)NCC1(CCC2(OCCO2)CC1)CC1=CC=CC=C1 | C19H27NO2
